US07829560B2
N-(4-{[2-(Cyclopropylamino)pyrimidin-4-yl]oxy}-1-naphthyl)-3-fluoro-5-piperidin-1-ylbenzamide (Compound B382).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and cyclopropylamine according to conditions described in general procedure C. Mp: 157-158° C.; 1H NMR (400 MHz, DMSO-d6) δ 0.32-0.48 (m, 4 H), 1.58 (s, 6 H), 3.19-3.31 (m, 4 H), 6.34 (bs, 1 H), 6.96 (d, J=12.4, 1 H), 7.15 (d, J=8.7 Hz, 1 H), 7.34-7.42 (m, 3 H), 7.53-7.63 (m, 3 H), 7.81 (d, J=8.0 Hz, 1 H), 7.95 (d, J=8.0 Hz, 1 H), 8.21-8.23 (m, 1 H), 10.40 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | N-(4-{[2-(Cyclopropylamino)pyrimidin-4-yl]oxy}-1-naphthyl)-3-fluoro-5-piperidin-1-ylbenzamide | C1(CC1)NC1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCCCC1)F)=O | C29H28FN5O2
